US09226922B2
Step 2: (S)-1-((1-hydroxycyclobutyl)(phenyl)methyl)-3-(3-(2-methoxyethoxy)-1H-pyrazolo[4,3-c]pyridin-6-yl)urea (102)
In a manner similar to that described previously (e.g. Example 40, Step 3), (S)-1-((1-hydroxycyclobutyl)(phenyl)-methyl)-3-(3-(2-methoxyethoxy)-1-trityl-1H-pyrazolo[4,3-c]pyridin-6-yl)urea was treated with TFA and triethylsilane in DCM. The product (102) was purified by Reverse phase C-18 HPLC (eluting with Acetonitrile/Water+0.1% TFA). MS: [M+H]+ m/z 412. 1H NMR (500 MHz, DMSO) δ 12.24 (s, 1H), 9.48 (s, 1H), 8.61 (s, 1H), 7.85 (bs, 1H), 7.38 (t, 2H, J=7.5 Hz), 7.36 (s, 1H), 7.27 (t, 2H, J=7.5 Hz), 7.20 (t, 2H, J=7.5 Hz), 4.78 (d, 1H, J=9 Hz), 4.42 (t, 2H, J=4.5 Hz), 3.70 (t, 2H, J=4.5 Hz), 3.30 (s, 3H), 2.12 (1H, m), 2.00 (m, 2H), 1.79 (m, 1H), 1.69 (m, 1H), 1.59 (m, 1H).

reactant | (S)-1-((1-hydroxycyclobutyl)(phenyl)-methyl)-3-(3-(2-methoxyethoxy)-1-trityl-1H-pyrazolo[4,3-c]pyridin-6-yl)urea | OC1(CCC1)[C@@H](NC(=O)NC1=CC2=C(C=N1)C(=NN2C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)OCCOC)C2=CC=CC=C2 | C40H39N5O4
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | triethylsilane | C(C)[SiH](CC)CC | C6H16Si
solvent | DCM | C(Cl)Cl | CH2Cl2
product | (S)-1-((1-hydroxycyclobutyl)(phenyl)methyl)-3-(3-(2-methoxyethoxy)-1H-pyrazolo[4,3-c]pyridin-6-yl)urea | OC1(CCC1)[C@@H](NC(=O)NC1=CC2=C(C=N1)C(=NN2)OCCOC)C2=CC=CC=C2 | C21H25N5O4
